US06921821B2
3-Azido-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester
To a solution of 3-methanesulfonyloxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester (1.74 g, 6.28 mmol) in DMF (62 mL) was added sodium azide (813 mg, 12.5 mmol) portion-wise. The mixture was heated to 100° C., stirred for 5 hrs, cooled, and diluted with ethyl acetate. The solution was washed three times with water, sodium bicarbonate, brine; dried over Na2SO4, filtered, and concentrated to provide a yellow oil (1.42 g). 1H NMR (300 MHz, CDCl3) δ ppm 1.25 (t, J=7.1 Hz, 3H), 1.68 (m, 4H), 1.91 (m, 2H), 2.01 (m, 2H), 3.73 (m, 1H), 4.15 (q, J=7.0 Hz, 2H), 4.34 (m, 2H); MS (ESI+Q1MS) m/z 225 [M−H]+

reactant | 3-methanesulfonyloxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | 6.28 mmol, 1.74 g | C(C)OC(=O)N1C2CC(CC1CC2)OS(=O)(=O)C | C11H19NO5S
reactant | sodium azide | 12.5 mmol, 813 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 62 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Azido-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | 1.42 g | C(C)OC(=O)N1C2CC(CC1CC2)N=[N+]=[N-] | C10H16N4O2
